US08981084B2
2,4-Dichloropyrimidine (5.0 g, 33.56 mmol) and 1-Boc-piperazine (6.25 g, 33.56 mmol) were dissolved in EtOH (40 mL). NaHCO3 (5.07 g, 60.41 mmol) was added and the reaction mixture was heated to reflux for 1.5 h, cooled to room temperature, and concentrated under reduced pressure. The mixture was diluted with CH2Cl2 and the organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The crude product was purified by column chromatography (silica 60-120 mesh, eluent 5% MeOH in CH2Cl2) to get tert-butyl 4-(4-chloropyrimidin-2-yl)piperazine-1-carboxylate (3.5 g, yield 35%). 1H NMR (400 MHz, CDCl3) δ 8.07-8.05 (d, J=6.0 Hz, 1H), 6.40-6.39 (d, J=6.3 Hz, 1H), 3.65 (m, 4H), 3.54-3.51 (m, 4H), 1.48 (s, 9H). MS (ESI) m/z: Calculated for C13H19ClN4O2: 298.12. found: 299.2 (M+H)+

reactant | 2,4-Dichloropyrimidine | 33.56 mmol, 5.0 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 1-Boc-piperazine | 33.56 mmol, 6.25 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | NaHCO3 | 60.41 mmol, 5.07 g | C(=O)(O)[O-].[Na+]
solvent | EtOH | 40 mL | CCO | C2H6O
product | tert-butyl 4-(4-chloropyrimidin-2-yl)piperazine-1-carboxylate | 3.5 g, yield 35% | ClC1=NC(=NC=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C13H19ClN4O2
